US04303793
Six hundred and seventy (670) pounds of 50 percent aqueous sodium hydroxide solution were added to one hundred and fifty (150) gallons of water contained in a reactor kettle equipped with a stirrer, heating, and cooling means. The temperature was maintained below 60° F., and the solution was continuously stirred. Seven hundred and fifteen (715) pounds of aniline were then added; the temperature was lowered to 50° F. and the pH of the solution was adjusted to between 7.0 and 8.0 and maintained thereat while one thousand and fifty (1050) pounds of isopropylchloroformate were added to form isopropyl N-phenylcarbamate. When 99 to 99.5 percent of the aniline had reacted, the reaction mixture was pumped into a wash kettle and heated with stirring to about 185° to 210° F. until about 95 percent of the isopropyl N-phenylcarbamate had melted. The stirring was stopped, and the mixture was allowed to separate into two phases, the lower of which, i.e., the aqueous salt phase, was drained away. An equal volume of hot water (200° F.) was added to the remaining phase comprised primarily of molten isopropyl N-phenylcarbamate, and the mixture was agitated for 20 minutes, and then allowed to separate into two phases. The upper phase comprising washed molten isopropyl N-phenylcarbamate was pumped into a second wash kettle and washed with 200 gallons of dilute hydrochloric acid solution maintained at 185° F. The washing of the mixture in the second wash kettle was continued, until a 25 milliliter sample of the wash kettle showed that a 1/2 inch cube of solid isopropyl N-phenylcarbamate heated and mixed with 25 milliliters of distilled water gave no color or only a slight bluish tinge when 3 drops of a solution containing 5 grams of calcium hypochlorite per 100 milliliters of water were added to the mixture of water and isopropyl N-phenylcarbamate after the mixture was cooled to ambient temperature (65° F.).

reactant | sodium hydroxide | [OH-].[Na+]
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | isopropylchloroformate | C(C)(C)OC(=O)Cl | C4H7ClO2
solvent | water | O | H2O
product | isopropyl N-phenylcarbamate | C1(=CC=CC=C1)NC(OC(C)C)=O | C10H13NO2
